US08134007B2
N-{6-Amino-5-[2-(trifluoromethoxy)phenyl]pyridin-2-yl}-3-methylisoxazole-4-carboxamide
To a suspension of 3-methylisoxazole-4-carboxylic acid (2.58 g, 20 mmol) in isopropylacetate (26 ml) was added thionyl chloride (2.4 g, 1.47 ml, 20 mmol) and the reaction heated to 70° C. for 5 hours before cooling to room temperature. 11/12ths of this solution was added dropwise to a solution of 3-[2-(trifluoromethoxy)phenyl]pyridine-2,6-diamine (Preparation 2, 4.56 g, 16.9 mmol) and 2,6-lutidine (3.98 g, 4.3 ml, 37.2 mmol) in isopropylacetate (23 ml). The reaction was stirred at room temperature for 30 minutes during which a slurry was formed caused by crystallisation of lutidine hydrochloride. 20% w/w citric acid (46 ml) was added, the biphasic mixture stirred for 10 minutes before separation. The organic phase was washed with saturated sodium bicarbonate solution (46 ml), water (46 ml) and then reduced in volume to 16 ml. Toluene was then added (2×46 ml) and the volume reduced again to 20 ml. The resultant white solid was collected by filtration, washed with toluene (10 ml) and dried to afford the title compound in 46% yield. The white solid (2.1 g) was slurried in toluene (10 ml, 5 ml/g) and heated to reflux to form a solution. The resultant solution was cooled to 0° C. and granulated for 1 hour. The solid was collected by filtration, washed with toluene (6 ml, 3 ml/g) and dried overnight to yield 1.8 g of crystalline material.

reactant | 3-methylisoxazole-4-carboxylic acid | 20 mmol, 2.58 g | CC1=NOC=C1C(=O)O | C5H5NO3
reactant | thionyl chloride | 20 mmol, 1.47 ml, 2.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[2-(trifluoromethoxy)phenyl]pyridine-2,6-diamine | 16.9 mmol, 4.56 g | FC(OC1=C(C=CC=C1)C=1C(=NC(=CC1)N)N)(F)F | C12H10F3N3O
reactant | 2,6-lutidine | 37.2 mmol, 4.3 ml, 3.98 g | N1=C(C=CC=C1C)C | C7H9N
solvent | isopropylacetate | 26 ml | C(C)(C)OC(C)=O | C5H10O2
solvent | isopropylacetate | 23 ml | C(C)(C)OC(C)=O | C5H10O2
product | N-{6-Amino-5-[2-(trifluoromethoxy)phenyl]pyridin-2-yl}-3-methylisoxazole-4-carboxamide | 46% yield | NC1=C(C=CC(=N1)NC(=O)C=1C(=NOC1)C)C1=C(C=CC=C1)OC(F)(F)F | C17H13F3N4O3
